US03963717
To a solution of 7.4 g. of N-isopropyl-2,3-dihydro-4-benzofuranamine in 200 ml. of glacial acetic acid, cooled to 15°± 5°C. is added 2.5 g. of sodium isocyanate. The mixture is stirred at room temperature for 15 hours and then concentrated in vacuo. The residue is treated with 150 ml. of 2N sodium hydroxide and then extracted with chloroform. The chloroform extract is dried with anhydrous magnesium sulfate, filtered and concentrated in vacuo to give an oil of 1-isopropyl-1-(2,3-dihydro-4-benzofuranyl) urea.

reactant | N-isopropyl-2,3-dihydro-4-benzofuranamine | C(C)(C)NC=1C=CC=C2C1CCO2 | C11H15NO
reactant | sodium isocyanate | [N-]=C=O.[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-isopropyl-1-(2,3-dihydro-4-benzofuranyl) urea | C(C)(C)N(C(=O)N)C1=CC=CC2=C1CCO2 | C12H16N2O2
